US04743602
Ethyl 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylate (12.6 g, 0.05 mol) was dissolved in methanol (70 ml) and a solution of potassium hydroxide (6.5 g, 0.12 mol) in water (70 ml) added dropwise at room temperature. The solution was refluxed for 3 hours, cooled to room temperature and carefully neutralised with 2M HCl. Saturated sodium chloride was added, the aqueous solution extracted with ethyl acetate (4×75 ml) and dried over anhydrous sodium sulphate. Removal of the solvent gave 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylic acid (10.0 g, 89%).

reactant | Ethyl 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylate | 0.05 mol, 12.6 g | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)OCC | C14H20O2S
reactant | potassium hydroxide | 0.12 mol, 6.5 g | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 70 ml | O | H2O
product | 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylic acid | 10.0 g, 89% | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)O | C12H16O2S
